US06573272B1
b) 9-Methyl-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]-indole Mono Hydrochloride
To a solution of 2-benzyloxycarbonyl-9-methyl-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]indole (5.17 g, 16.2 mmole) in methanol (100 mL), EtOAc (25 ml) and HCl (17 mL, 1M in dioxane) at RT in a Parr hydrogenation flask was added 10% Pd/C (0.5 g). The reaction mixture was shaken under 45 psi of H2 for 6 hr. The suspension was filtered through celite®, and the filter pad was washed with methanol. The filtrate was concentrated on the rotavap, and the residue was dried under high vacuum to afford the titled compound (3.19 g, 92%) as a white solid: MS (ES) m/e 187 (M+H−HCl)+.

reactant | 2-benzyloxycarbonyl-9-methyl-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]indole | 16.2 mmole, 5.17 g | C(C1=CC=CC=C1)OC(=O)N1CC=2N(C3=CC=CC=C3C2CC1)C | C20H20N2O2
reactant | HCl | 1M, 17 mL | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 9-Methyl-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]-indole Mono Hydrochloride | 3.19 g, 92% | Cl.CN1C2=C(C3=CC=CC=C13)CCNC2 | InChI=1S/C12H14N2.ClH/c1-14-11-5-3-2-4-9(11)10-6-7-13-8-12(10)14;/h2-5,13H,6-8H2,1H3;1H
